US06903085B1
Step ii: (R)-1-[1-(4-Bromophenyl)ethyl]-4-piperidinamine
Prepared following the general method of Example 370 step (i) (R)-1-[1-(4-bromophenyl)ethyl]-4-piperidinone (420 mg) ammonium acetate (0.80 g) and sodium cyanoborohydride (120 mg) to give the subtitle compound (449 mg).

reactant | (R)-1-[1-(4-bromophenyl)ethyl]-4-piperidinone | 420 mg | BrC1=CC=C(C=C1)[C@@H](C)N1CCC(CC1)=O | C13H16BrNO
reactant | sodium cyanoborohydride | 120 mg | C(#N)[BH3-].[Na+]
product | (R)-1-[1-(4-Bromophenyl)ethyl]-4-piperidinamine | 449 mg | BrC1=CC=C(C=C1)[C@@H](C)N1CCC(CC1)N | C13H19BrN2
